US08067621B2
2-[10a-(4-Chloro-benzene sulfonyl)-1,4-difluoro-6a,7,8,9,10,10a-hexahydro-6H-benzo[c]chromen-8-yloxy]-ethylamine
A solution of 8-(2-azido-ethoxy)-10a-(4-chloro-benzenesulfonyl)-1,4-difluoro-6a,7,8,9,10,10a-hexahydro-6H-benzo[c]chromene (110 mg, 0.242 mmol) in 4:1 THF/H2O (5 mL) was treated with Ph3P (127 mg, 0.484 mmol) and the reaction was heated to 60° C. After 16 h, the reaction mixture was cooled to ambient temperature and concentrated in vacuo to remove the THF. The reaction mixture was diluted with saturated aqueous NH4Cl and extracted with CH2Cl2 (3×). The combined organic extracts were dried over MgSO4 and concentrated in vacuo. Flash chromatography (10% MeOH/CH2Cl2) provided the title compound (52 mg, 52%): 1H NMR (CDCl3 400 MHz) δ 7.62 (d, J=8.8 Hz, 2H), 7.49 (d, J=8.8 Hz, 2H), 7.06 (m, 1H), 6.43 (m, 1H), 5.22 (dd, J=10.9, 2.9 Hz, 1H), 4.11 (d, J=11.7 Hz, 1H), 3.51 (m, 1H), 3.41 (m, 2H), 2.98 (m, 1H), 2.88 (br s, 2H), 2.39 (m, 2H), 1.94 (m, 2H), 1.49 (m, 3H), 1.13 (m, 1H).

reactant | 8-(2-azido-ethoxy)-10a-(4-chloro-benzenesulfonyl)-1,4-difluoro-6a,7,8,9,10,10a-hexahydro-6H-benzo[c]chromene | 0.242 mmol, 110 mg | N(=[N+]=[N-])CCOC1CCC2(C(COC3=C(C=CC(=C23)F)F)C1)S(=O)(=O)C1=CC=C(C=C1)Cl | C21H20ClF2N3O4S
reactant | Ph3P | 0.484 mmol, 127 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF H2O | 5 mL | C1CCOC1.O
product | 2-[10a-(4-Chloro-benzene sulfonyl)-1,4-difluoro-6a,7,8,9,10,10a-hexahydro-6H-benzo[c]chromen-8-yloxy]-ethylamine | 52 mg, 52% | ClC1=CC=C(C=C1)S(=O)(=O)C12C(COC3=C(C=CC(=C13)F)F)CC(CC2)OCCN | C21H22ClF2NO4S
